US08110581B2
Step 2. Methyl{6-[(5S)-2-(2-chlorophenyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]pyridin-3-yl}carbamate
Methyl chloroformate (4.4 μL, 0.000057 mol) was added to a solution of (5S)-7-(5-aminopyridin-2-yl)-2-(2-chlorophenyl)-2,7-diazaspiro[4.5]decan-1-one (18.5 mg, 0.0000478 mol) and pyridine (13 μL, 0.00016 mol) in methylene chloride (1.0 mL, 0.016 mol) and the mixture was stirred for 0.5 h at rt. The volatiles were removed in-vacuo and the crude product was purified by prep-HPLC. LC-MS: 415.1/417.1 (M+H)+.

reactant | Methyl chloroformate | 0.000057 mol, 4.4 μL | ClC(=O)OC | C2H3ClO2
reactant | (5S)-7-(5-aminopyridin-2-yl)-2-(2-chlorophenyl)-2,7-diazaspiro[4.5]decan-1-one | 0.0000478 mol, 18.5 mg | NC=1C=CC(=NC1)N1C[C@@]2(CCN(C2=O)C2=C(C=CC=C2)Cl)CCC1 | C19H21ClN4O
reactant | pyridine | 0.00016 mol, 13 μL | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 0.016 mol, 1.0 mL | C(Cl)Cl | CH2Cl2
product | Methyl{6-[(5S)-2-(2-chlorophenyl)-1-oxo-2,7-diazaspiro[4.5]dec-7-yl]pyridin-3-yl}carbamate | COC(NC=1C=NC(=CC1)N1C[C@@]2(CCN(C2=O)C2=C(C=CC=C2)Cl)CCC1)=O | C21H23ClN4O3
